US09290472B2
A solution of 4-dimethylaminobutylamine (3.0 g) in ethyl formate (30 mL) was stirred and heated at reflux under an atmosphere of nitrogen for 3 hours. After cooling, the mixture was evaporated to dryness and the residue was purified by chromatography on silica, eluting with a mixture of methanol and DCM (20%) to give N-(4-dimethylaminobutyl)formamide (2.7 g) as a pale yellow oil.

reactant | 4-dimethylaminobutylamine | 3.0 g | CN(CCCCN)C | C6H16N2
reactant | ethyl formate | 30 mL | C(=O)OCC | C3H6O2
product | N-(4-dimethylaminobutyl)formamide | 2.7 g | CN(CCCCNC=O)C | C7H16N2O
